US06462198B1
Cyclopropanecarboxylic acid diphenylacetyl-amide
To a stirred and cooled (0° C.) solution of 2,2-diphenylacetamide (500 mg, 2.36 mmol) in THF (20 ml) was added sodium hydride (95 mg, 2.36 mmol; 60%) and the mixture was stirred at RT for 0.5 h. Then cyclopropanecarboxylic acid chloride (247 mg, 2.36 mmol) dissolved in THF (5 ml) was added dropwise at RT and the solution was stirred at RT for 20 h. The reaction mixture was poured into sat. NaHCO3 solution (50 ml) and extracted with ethyl acetate (2×70 ml). The combined organic layers were washed with brine (50 ml), dried (MgSO4) and evaporated. Further purification by column chromatography (toluene/ethyl acetate 19:1) yielded the product which was recrystallized from ethyl acetate/hexane to give a white solid (133 mg, 20%), m.p. 178° C. and MS: m/e=279 (M+).

reactant | 2,2-diphenylacetamide | 2.36 mmol, 500 mg | C1(=CC=CC=C1)C(C(=O)N)C1=CC=CC=C1 | C14H13NO
reactant | sodium hydride | 2.36 mmol, 95 mg | [H-].[Na+]
reactant | cyclopropanecarboxylic acid chloride | 2.36 mmol, 247 mg | C1(CC1)C(=O)Cl | C4H5ClO
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Cyclopropanecarboxylic acid diphenylacetyl-amide | 133 mg, 20% | C1(=CC=CC=C1)C(C(=O)NC(=O)C1CC1)C1=CC=CC=C1 | C18H17NO2
